US07109229B2
(c) (1-Methyl-4-methoxyl-1H-indol-7-yl)-oxo-acetic acid methyl ester
A solution of 1-methyl-4-methoxyl-7-bromoindole (1.17 g, 4.87 mmol) in THF (33 mL) was cooled to −78° C. and a solution of tert-butyl lithium in pentanes (1.7 M, 6.3 mL, 10.7 mmol) added dropwise over 30 min. After 30 min at −78° C., the mixture was treated with dimethyl oxalate (1.44 g, 12.2 mmol) in one portion. After 15 min, the mixture was allowed to warm to room temperature and stirred 4 h. The reaction mixture was quenched with water and extracted with ethyl acetate. The extract was washed with brine and dried (Na2SO4), and concentrated. Flash chromatography (EtOAc/hexanes) afforded the title compound (0.7 g, 58.1%). 1H NMR (400 MHz, CDCl3) 3.95 (s, 3H), 4.0 (s, 3 H), 4.02 (s, 3H), 6.56 (d, J=8.61 Hz, 1H), 6.67 (d, J=3.13 Hz, 1H), 6.99 (d, J=3.13 Hz, 1H), 7.61 (d, j=8.6 Hz, 1H); MS (ES, m/z): C13H13NO4: 248.16 (M++1).

reactant | 1-methyl-4-methoxyl-7-bromoindole | 4.87 mmol, 1.17 g | CN1C=CC2=C(C=CC(=C12)Br)OC | C10H10BrNO
reactant | tert-butyl lithium | C(C)(C)(C)[Li]
reactant | dimethyl oxalate | 12.2 mmol, 1.44 g | C(C(=O)OC)(=O)OC | C4H6O4
solvent | THF | 33 mL | C1CCOC1 | C4H8O
product | (1-Methyl-4-methoxyl-1H-indol-7-yl)-oxo-acetic acid methyl ester | 0.7 g, 58.1% | COC(C(=O)C=1C=CC(=C2C=CN(C12)C)OC)=O | C13H13NO4
